US06107310
A solution of (S)-2,3-dihydro-7H-1,4-dioxino[2,3-e]indol-2-ylmethanol (0.75 g; prepared by the method described above) in dichloromethane (50 ml) was stirred with cooling in an ice bath. 4-(Dimethylamino)pyridine (0.59 g) and 4-toluenesulphonyl chloride (0.84 g) were then added and the solution stirred at ambient temperature overnight. The mixture was diluted with dichloromethane (200 ml), washed sucessively with water (50 ml), saturated aqueous copper(II) sulphate solution (2×50 ml) and water (50 ml), then dried over sodium sulphate and the solvent evaporated to give (S)-2,3-dihydro-7H-1,4-dioxino[2,3-e]indol-2-ylmethyl 4-toluenesulphonate (1.04 g) as a pale brown oil which solidified on standing.

reactant | (S)-2,3-dihydro-7H-1,4-dioxino[2,3-e]indol-2-ylmethanol | O1[C@H](COC=2C1=C1C=CNC1=CC2)CO | C11H11NO3
reactant | 4-toluenesulphonyl chloride | 0.84 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | 4-(Dimethylamino)pyridine | 0.59 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | (S)-2,3-dihydro-7H-1,4-dioxino[2,3-e]indol-2-ylmethyl 4-toluenesulphonate | 1.04 g | C1(=CC=C(C=C1)S(=O)(=O)OC[C@@H]1COC=2C(=C3C=CNC3=CC2)O1)C | C18H17NO5S
